US07192968B2
(1R*,2S*,4R*)-N2-tert-Butoxycarbonyl-4-ethoxycarbonyl-1,2-cyclohexanediamine
Ethyl (1R*,3S*,4R*)-4-azido-3-(tert-butoxycarbonylamino)cyclohexane-1-carboxylate (5.4 g) was dissolved in a mixed solvent of ethanol (10 ml) and ethyl acetate (10 ml), and a catalytic amount of 10% palladium on carbon was added to stir the mixture at room temperature for 20 hours in a hydrogen atmosphere. After insoluble matter was removed by filtration, the solvent was distilled off under reduced pressure to obtain the title compound (4.7 g) as a pale yellow oil.

reactant | Ethyl (1R*,3S*,4R*)-4-azido-3-(tert-butoxycarbonylamino)cyclohexane-1-carboxylate | 5.4 g | N(=[N+]=[N-])[C@H]1[C@H](C[C@@H](CC1)C(=O)OCC)NC(=O)OC(C)(C)C | C14H24N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | (1R*,2S*,4R*)-N2-tert-Butoxycarbonyl-4-ethoxycarbonyl-1,2-cyclohexanediamine | 4.7 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CC[C@H](C1)C(=O)OCC)N | C14H26N2O4
